US08420650B2
A mixture of (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one (474 mg, 2 mmol) and 3-(diethoxymethyl)benzaldehyde (418 mg, 2 mmol) in ethyl propionate (20 mL) was cooled to 0° C. Sodium methoxide in methanol solution [sodium (148 mg, 8 mmol) in methanol (2 mL)] was then added dropwise and the mixture was stirred at room temperature overnight. The resulting mixture was evaporated under reduced pressure. The residue was extracted with ethyl acetate (100 mL×3) and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated to give crude product. The crude product was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=50:1 to 5:1) to give methyl 3-(3-(diethoxymethyl)phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (230 mg, yield 25%) as a yellow solid.

reactant | (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one | 2 mmol, 474 mg | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC=C1)=O | C15H11NO2
reactant | 3-(diethoxymethyl)benzaldehyde | 2 mmol, 418 mg | C(C)OC(C=1C=C(C=O)C=CC1)OCC | C12H16O3
reactant | Sodium methoxide | C[O-].[Na+]
reactant | methanol | 8 mmol, 2 mL, 148 mg | CO | CH4O
reactant | ethyl propionate | 20 mL | C(CC)(=O)OCC | C5H10O2
product | methyl 3-(3-(diethoxymethyl)phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 230 mg, yield 25% | C(C)OC(C=1C=C(C=CC1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=CC=C1)OCC | C28H29NO5
